US07687490B2
b) (Cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate
Sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate (300 mg) was added to 5 ml of a solution of 183 mg of (cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl chloride in DMSO, and the mixture was stirred at room temperature for 18 hr. Ethyl acetate (20 ml) and 20 ml of 20% brine were added thereto, followed by separation. The organic layer was washed twice with 20% brine, was dried over anhydrous magnesium sulfate, and was filtered, and ethyl acetate was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol=15:1) to give 273 mg of the title compound.

reactant | Sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 300 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
reactant | (cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl chloride | 183 mg | C[C@@H]1N([C@@H](CCC1)C)C(=O)OCCl | C9H16ClNO2
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | brine | 20 ml | [Cl-].[Na+].O
product | (Cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethyl-thiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 273 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCOC(=O)N2[C@H](CCC[C@H]2C)C)C1=O | C25H33N3O7S2
